US05705499
By a procedure analogous to that described in Example 51b, 5,11-dihydro-11-ethyl-8-ethynyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.1 g, 0.36 mmol) was coupled with 5-bromopyrimidine (59 mg, 0.37 mmol) to give 65 mg of 5,11-Dihydro-11-ethyl-5-methyl-8-(5-pyrimidyl)ethynyl-(-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (65 mg). A mixture containing this coupled product (65 mg), cyclohexene (0.07 mL), and 10% palladium on carbon (60 mg) in 2 mL of ethanol was heated in a sealed tube at 95° C. for 5 hours. The reaction mixture was filtered through Celite and concentrated. Purification of the residue by flash chromatography, eluting with methanol/dichloromethane, and recrystallization from ethyl acetate/hexanes provided 27 mg of the title compound, m.p. 142°-143° C.

reactant | 5,11-dihydro-11-ethyl-8-ethynyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.36 mmol, 0.1 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)C#C)=O)C)C=CC=N2 | C16H14N4O
reactant | 5-bromopyrimidine | 0.37 mmol, 59 mg | BrC=1C=NC=NC1 | C4H3BrN2
product | 6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 65 mg | N1=CC=CC2=NC(C3=C(N=C21)N=CC=C3)=O | C11H6N4O
